US07459562B2
D) N-(4-(4-Amino-2-fluorophenoxy)pyridin-2-yl)acetamide
A solution of tert-butyl 4-(2-acetamidopyridin-4-yloxy)-3-fluorophenylcarbamate (110 mg, 0.30 mmol) in 4 M HCl/1,4-dioxane (1.5 mL) was stirred at 0° C. for 20 min then at room temperature for 25 min. The mixture was diluted with EtOAc (25 mL) and saturated aq. NaHCO3 solution (20 mL), and stirred vigorously for 5 min. The EtOAc phase was washed with brine, dried (MgSO4) and concentrated in vacuo to give the title compound (69 mg, 87%) as a yellow solid. 1H NMR (DMSO-d6) δ 10.49 (s, 1H), 8.13 (d, 1H, J=5.6 Hz), 7.60 (m, 1H), 6.95 (dd, 1H, J=8.6, 9.2 Hz), 6.60 (dd, 1H, J=2.5, 5.6 Hz), 6.48 (dd, 1H, J=2.5, 13.2 Hz), 6.40 (dd, 1H, J=2.0, 8.6 Hz), 5.44 (s, 2H), 2.02 (s, 3H).

reactant | tert-butyl 4-(2-acetamidopyridin-4-yloxy)-3-fluorophenylcarbamate | 0.30 mmol, 110 mg | C(C)(=O)NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(OC(C)(C)C)=O)F | C18H20FN3O4
solvent | HCl 1,4-dioxane | 4 M, 1.5 mL | Cl.O1CCOCC1
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
product | N-(4-(4-Amino-2-fluorophenoxy)pyridin-2-yl)acetamide | 69 mg, 87% | NC1=CC(=C(OC2=CC(=NC=C2)NC(C)=O)C=C1)F | C13H12FN3O2
